Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro / Flagyl / codeine / Demerol / levofloxacin / Sulfa 
(Sulfonamide Antibiotics) / Keflex
 
Attending: ___
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
ERCP with metallic CBD stent

 
History of Present Illness:
___ is a ___ year old female who is s/p CCY, with prior 
know hemangiomas ("smaller than quarters" per patient - last 
evaluated ___ years ago) initially presented to ___ 
___ with painless jaundice, now transferred due to findings 
of transaminitis, hyperbilirubinemia and pancreatic mass with 
likely metastatic disease throughout the liver.

Patient reports that she went to urgent care last week because 
of dark urine and was treated for UTI with a course of Keflex. 
She reported dysuria that that time. She felt like she had a 
reaction to Keflex, including nausea and abdominal pain, so was 
switched to Macrobid.

Over the last ___ days she has noticed yellowing of her skin, so 
she presented to ___ for evaluation. While she 
reports no pain currently, she does note that she has had some 
moments with epigastric pain radiating around to her back. She 
does report some intermittent nausea, decreased appetite.. 

At OSH ED she had labs notable for tbili 6.0, lipase ~4000, UA 
with pos LEs and nitrites. She was given ceftriaxone for 
possible UTI. CT abdomen showed likely pancreatic mass with 
diffuse liver metastases, as well as intra and extrahepatic 
ductal dilatation. She was transferred to ___ for further 
evaluation.

ED course: AVSS, exam notable for jaundice, labs repeated 
showing tbili 7.0, AST/ALT 379/607, ALP 709, lipase 1634. 
Patient was admitted for further evaluation of likely new 
metastatic disease and likely ERCP.

 
Past Medical History:
- S/p cholecystectomy
- S/p ventral hernia repair
- Hepatic hemangioma ("smaller than silver dollars" per patient)
 
Social History:
___
Family History:
- Mother: Died age ___ of kidney cancer
- Father: Died age ___ of COPD
 
Physical Exam:
ADMISSION EXAM: 
Vital signs: Afebrile, BP 144/76, P 79, RR 18, O2 96% on RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear, +scleral icterus
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs 
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no 
increased work of breathing
GI: Liver edge palpable ~4cm below costal margin, mildly tender 
to palpation in RUQ, otherwise soft, non-tender, non-distended. 
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate

DISCHARGE EXAM:
Vitals: 97.6PO 110/62 70 18 95 Ra 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear, +scleral icterus
Lymph: no cervical lymphadenopathy
CV: No JVD present, regular rate and rhythm, no murmurs
appreciated
Resp: CTA bilaterally in anterior and posterior lung fields, no
increased work of breathing
GI: Liver edge palpable ~4cm below costal margin, mildly tender
to palpation in RUQ, otherwise soft, non-tender, non-distended. 
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate
 
Pertinent Results:
ADMISSION LAB RESULTS:
___ (___):
Lipase 3910
INR 0.9
PTT 27.3

ALT 833, AST 478
ALP 818
Tbili 6.3, Dbili 5.2

CBC:
8.5 > 12.74/38.7 < 285

BMP:
138 | 102 | 9
-----------------< 125
3.2 | 29  | 0.64

ESR 46

UA: large bili, trace prot, mod ___, +nitrites, ___ WBC, 
+bacteria

___ (___):
ALT: 607 AP: 709 Tbili: 7.0 Alb: 3.5 
AST: 379 
Lipase: 1634

BMP:
138 | 101 | 6  
----------------< 114
3.0 | 23  | 0.5 

Ca: 8.6 Mg: 1.8 P: 3.4

CBC:
7.3 > 11.0/34.1 < 258 

DISCHARGE LABS:
___ 07:50AM BLOOD WBC-11.2* RBC-4.08 Hgb-11.6 Hct-36.7 
MCV-90 MCH-28.4 MCHC-31.6* RDW-14.5 RDWSD-47.1* Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-91 UreaN-7 Creat-0.5 Na-138 K-4.3 
Cl-99 HCO3-23 AnGap-20
___ 07:50AM BLOOD ALT-542* AST-262* AlkPhos-718* 
TotBili-3.7*
___ 07:50AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.7
  
IMAGING:
CT abd/pelvis ___ - ___ - MY READ:
Diffuse lesions throughout liver, concerning for metastatic 
disease.

Abd ultrasound ___ - ___:
Liver is heterogeneous and postsurgical with multiple hepatic 
masses measuring up to 4.7x4.2x4.3cm in left hepatic lobe and 
7.2x3.7x4.cm in right hepatic lobe. 
Multiple hepatic masses as above with peripancreatic and 
para-aortic masses likely representing lymphadenopathy, cannot 
exclude a pancreatic mass. Intrahepatic and extrahepatic biliary 
ductal dilatation together with pancreatic ductal dilatation.

ERCP (___): ERCP (___): 
The scout film showed clips from previous CCY and partial liver 
resection. Duodenal narrowing was noted at the junction of teh 
first and second parts of the duodenum. The scope was exchanged 
for a diagnostic ERCP scope. A mass was found at the area of the 
papilla. The mass caused a partial obstruction. The scope 
traversed the lesion.The PD was cannulated using a Rx 
sphincterotome preloaded with 0.035in guidewire. Contrast 
injection showed dilated main PD at approximately 6mm. There was 
no filling defects. Decision was made to place a PD stent to aid 
with biliary cannulation. A ___ x 5cm ___ pancreatic stent 
was successfully placed in the PD. The CBD was cannulated using 
a Rx sphincterotome preloaded with 0.035in guidewire. Contrast 
injection revealed very tight stricture at the lower CBD. The 
common bile duct, common hepatic duct, right and left hepatic 
ducts were dilated. The sphincterotome was not able to traverse 
the stricture therefore a 4mm x 4cm Hurricane balloon was used 
to successfully dilate the stricture up to 4mm. Brushings were 
successfully obtained from the CBD stricture and sent for 
cytology. A 10mm x 60mm Wallflex fully covered biliary metal 
stent (___ REF ___ was 
successfully placed in the CBD. Excellent bile and contrast 
drainage was noted at the end of the procedure. The PD stent was 
removed successfully using a snare.

CTA Pancreatic Protocol ___: Completed. Read pending.

 
Brief Hospital Course:
ASSESSMENT/PLAN:
___ is a ___ year old female who is s/p CCY, with prior 
know hemangiomas ("smaller than quarters" per patient - last 
evaluated ___ years ago) initially presented to ___ 
___ with painless jaundice, now transferred due to findings 
of transaminitis, hyperbilirubinemia and pancreatic mass with 
likely metastatic disease throughout the liver.

# HYPERBILIRUBINEMIA,
# TRANSAMINITIS, due to
# BILIARY OBSTRUCTION, from
# PANCREATIC MASS:
Patient noted increasing jaundice over the past ___ days. Found 
to have hyperbili and transaminitis, as well as CT with 
pancreatic mass (official report not yet available, not sent 
with patient) causing biliary obstruction. CT also notable for 
diffuse metastatic disease to liver. CT most consistent with 
metastatic pancreatic adenocarcinoma, however will await tissue 
diagnosis. 
   Ms ___ underwent ERCP on ___ with placement of metallic CBD 
stent and good biliary flow.  Due to length of procedure, EUS 
with FNA was not done.  The ERCP team will await for brush 
cytology - and if it is undiagnostic, a follow up EUS may be 
done in 1 week.  CEA, ___ was sent.  Multidiscplinary 
pancreatic clinic visit will be arranged as an outpt.  She was 
given 4 day supply of Ceftin to complete 4 days of antibiotics. 
CTA pancreatic protocol was done prior to discharge for surgical 
planning.

# URINARY TRACT INFECTION:
Unclear if patient truly has UTI given that dark urine was 
almost certainly due to hyperbilirubinemia. However she did have 
dysuria and UA is positive, so she was given ceftriaxone and 
discharged home on PO ceftin for infection prevention (post 
ERCP) as well. 

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  CefTIN (cefUROXime axetil) 500 mg oral Q12H 
RX *cefuroxime axetil 500 mg 1 tab by mouth every twelve (12) 
hours Disp #*8 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic mass, obstructive jaundice - concern for metastatic 
pancreatic cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure looking after you, Ms. ___.  As you know, 
you were admitted with jaundice and underwent a procedure called 
ERCP to relieve the obstruction of the common bile duct.  A 
metallic stent was placed to maintain patency of the bile duct.  
A brush biopsy was done - where the result will not return till 
next week.  Please call Dr. ___ ___ in 7 
days for the pathology results.  Dr. ___ will also 
arrange for follow up regarding care of your pancreatic/liver 
condition and will notify you of the needed follow up.

   Please complete a 4 day course of the antibiotics (Augmentin) 
to prevent infection.  

  We wish you the best of luck. 
Your ___ Team

    
 
Followup Instructions:
___